US05811428
2-CHLORO-4-TRIFLUOROMETHYL-5-PYRIMIDINE CARBONYL CHLORIDE
The title compound was prepared as described in Example 25, but employing a solution of 2-chloro-4-trifluoromethylpyrimidine-5-carboxylic acid (1.5 g, 7.1 mmol) and oxalyl chloride (1.0 g, 8 mmol) in CH2Cl2 (30 mL) resulted in a 70% yield (1.1 g); 1H NMR (CDCl3) δ 9.31 (s, 1H).

reactant | 2-chloro-4-trifluoromethylpyrimidine-5-carboxylic acid | 7.1 mmol, 1.5 g | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)O | C6H2ClF3N2O2
reactant | oxalyl chloride | 8 mmol, 1.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-CHLORO-4-TRIFLUOROMETHYL-5-PYRIMIDINE CARBONYL CHLORIDE | 70% yield | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)Cl | C6HCl2F3N2O
